Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
Ms. ___ is a ___ female with history of morbid
obesity, PCOS, 11 months postpartum, history of postpartum
depression who presents with abdominal pain and transferred from
___ on ___.

Patient began 3 days ago having lower quadrant abdominal
discomfort, subsequently followed by more intense RUQ pain, and
then associated with several bouts of nonbloody emesis and
diarrhea for about 8 hours. The symptoms then went away. She
remained asymptomatic until the evening of ___, where she had
return of similar RUQ pain and one more episode of vomiting with
no diarrhea. She subsequently went to ___ office where she was
referred for RUQ US. The US showed dilated CBD 8 mm and no
evidence of cholecystitis. She was referred to ___, where
she was then sent to ___ ___ for concern of 
choledocholithiasis.

She notes her last BM was on ___, formed. She hasn't had
anything to eat other than an iced coffee, yogurt, fruit
yesterday morning on ___.

She denies any fevers, chills, shortness of breath, chest pain,
back pain, dysuria. She is currently on her menses. 

She is otherwise generally well, reports she had borderline
preeclampsia towards the end of her pregnancy.

___: given cipro, flagyl

 
Past Medical History:
morbid obesity, PCOS, 11 months postpartum, history of 
postpartum
depression, exercise induced asthma, migraines
 
Social History:
___
Family History:
Father had alcoholism and cirrhosis. Mother had DVT, HTN.
 
Pertinent Results:
ERCP ___

Impression: •The scout film was normal. Cannulation of the 
biliary duct was successful and deep with a sphincterotome using 
a free-hand technique. Contrast medium was injected resulting in 
complete opacification. The procedure was not difficult.  
•During biliary cannulation, the pancreatic duct was partially 
filled with contrast and visualized proximally.  The bile duct 
was successfully cannulated using a Rx sphincterotome preloaded 
with a 0.035in guidewire. Contrast was injected and there was 
brisk flow through the ducts. Contrast extended to the entire 
biliary tree.  
•Contrast injection revealed a filling defect in the lower third 
CBD consistent with a stone. A biliary sphincterotomy was 
successfully performed with the sphincterotome. There was no 
post-sphincterotomy bleeding.  
•The sphincterotome was exchanged for a balloon. The biliary 
tree was swept with a 9-12mm balloon starting at the 
bifurcation. One stone and sludge were successfully removed. The 
CBD and CHD were swept repeatedly until no further stones were 
seen.  
•The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD. Excellent bile and contrast drainage was 
seen endoscopically and fluoroscopically. I supervised the 
acquisition and interpretation of the fluoroscopic images. The 
quality of the fluoroscopic images was good.
 
___ 06:50AM BLOOD WBC-5.1 RBC-3.78* Hgb-10.8* Hct-33.2* 
MCV-88 MCH-28.6 MCHC-32.5 RDW-13.7 RDWSD-44.4 Plt ___
___ 06:50AM BLOOD Glucose-114* UreaN-7 Creat-0.5 Na-140 
K-4.4 Cl-103 HCO3-26 AnGap-11
___ 06:50AM BLOOD ALT-215* AST-23 AlkPhos-175* TotBili-0.3
 
Brief Hospital Course:
Ms. ___ is a ___ female with
history of morbid obesity, PCOS, 11 months postpartum, history 
of
postpartum depression who presents with RUQ abdominal pain, N/V,
and transferred from ___ on ___. RUQ US at ___ showed 
CBD
8 mm no cholecystitis evidence, and elevated LFT concerning for
choledocholithiasis

PROBLEMS:
#Suspected choledocholithiasis- presented with RUQ abdominal 
pain, N/V with RUQ US at ___ showing dilated 8 mmCBD, and 
transaminitis (Tbili 1.9, DBili 1.5, 674 ALT, 575 ALT,
200s ALP). Advanced endoscopy team consulted and performed ERCP 
with clearance of stones. General surgery was consulted and 
patient was offered inpatient CCY. Given timing patient opted to 
be discharged home with ___ clinic follow-up. 
-___ clinic f/u
-Return to hospital if worsening pain, jaundice, fevers, nausea, 
vomiting. Patient was pain free at the time of discharge.
-repeat LFTs (improving at discharge)

#Postpartum depression
-Stable, no SI, continue fluoxetine

#PCOS
-Continue home OCP and spironolactone
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. drospirenone-ethinyl estradiol ___ mg oral DAILY 
2. Spironolactone 25 mg PO DAILY 
3. FLUoxetine 20 mg PO DAILY 
4. nystatin 100,000 unit/gram topical BID 

 
Discharge Medications:
1.  drospirenone-ethinyl estradiol ___ mg oral DAILY  
2.  FLUoxetine 20 mg PO DAILY  
3.  nystatin 100,000 unit/gram topical BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Choledocholitiasis

 
Discharge Condition:
Good
Alert oriented x 3
Ambulatory without assistance 

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ with stones in your gall 
bladder. These stones were cleared using an endoscopic technique 
(ERCP) you began to feel better and were without pain on the day 
of discharge. You were also without fever signs of infection. 
When you leave the hospital it is important that you see a 
general surgeon (Dr. ___ in clinic within several weeks. 
You can make an appointment with him by calling ___ 
(General Surgery Clinic). 

 
Followup Instructions:
___